Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:6]([H:7])[H:8].[H:1][O:2][O:3][C:4][H:5]>>[H:1][O:2][O:3][C:4]([H:5])=[C:6]([H:7])[H:8],-6.96178512
[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15].[O:1]=[C:2]([H:3])[H:4]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15],-0.825632721301
[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[O:8][H:9]>>[C:4][C:5]([H:6])([H:7])[O:8][H:9].[H:1][O:2][C:3],7.07257105
[C:3]([H:4])([H:5])=[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-2.6384475699700003
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:10](\[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18].[H:9]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],-1.80502530136
[C:1]=[C:2]([O:3][H:4])[C:5](=[C:6])[C:7]([H:8])([H:9])[H:10]>>[C:1]#[C:2][O:3][H:4].[C:5](#[C:6])[C:7]([H:8])([H:9])[H:10],2.19824020902
[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7]/[O:8][C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]#[C:3]/[C:5]([H:6])=[C:7]/[O:8][C:9]([H:10])([H:11])[H:12].[H:4],1.94919943624
[H:1][C:2]([H:3])=[C:4]=[C:5]([C:6]([H:7])([H:8])[H:9])[O:10][O:11]>>[H:1][C:2]1([H:3])[C:4][C:5]([C:6]([H:7])([H:8])[H:9])[O:10][O:11]1,0.406110856478
[H:13].[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-1.99896851582
[H:1]/[C:2](=[C:3](/[H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18]>>[C:2](=[C:3](\[H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14])\[C:15]([H:16])([H:17])[H:18].[H:1],4.75201065997
[H:11].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15],-4.8368438429100005
[H:1][O:2][C:3]=[C:4]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:5]>>[H:1][O:2][C:3][C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-2.95919374271
[H:1][O:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:6]([H:7])[C:8]([H:9])([H:10])[H:11].[H:1][O:2][O:3][C:4][H:5],6.36338628
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[C:3](=[C:7][O:10][H:11])([H:8])[H:9].[H:1][O:2][C:4]([H:5])[H:6],4.27739417488
[H:1][C:2][O:3][C:4]1[C:5]([H:6])([H:7])[C@@:8]1([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2][O:3][C:4][C@:8]([C:5]([H:6])[H:7])([H:9])[C:10]([H:11])([H:12])[H:13],2.44799357493
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:7]([O:8][H:9])=[C:10]([H:11])[H:12].[H:6]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([O:8][H:9])=[C:10]([H:11])[H:12],-2.95167072542
[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1].[O:2]=[C:3](/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],1.82533920147
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6]/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:4]([H:5])[O:6]/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2][H:3],7.35424992241
[H:1][O:2][C:3][C:4]([H:5])=[C:6]([H:7])[H:8]>>[H:1][O:2][C:3]#[C:4][C:6]([H:7])[H:8].[H:5],3.0780892261900004
[C:6]([H:7])=[C:8]([H:9])[H:10].[H:1][O:2][C:3][C:4]#[C:5]>>[H:1][O:2][C:3][C:4]#[C:5][C:6]([H:7])=[C:8]([H:9])[H:10],-4.76858780355
[H:1][C:2][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:3]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-5.12507476825
[H:1][C:2]#[C:3][O:5][C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12].[H:4]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12],-2.08255667205
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7][O:8][C:9]([H:10])[H:11]>>[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:7]/[O:8][C:9]([H:10])[H:11].[H:6],2.48676822041
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18].[H:7],4.21294947638
[H:1][C:2]=[C:3]([H:4])[O:5][C:6][O:7][C:8]([H:9])([H:10])[H:11]>>[C:3]([H:4])[O:5][C:6][O:7][C:8]([H:9])([H:10])[H:11].[H:1][C:2],7.941168302789999
[C:1].[C:2]([H:3])[O:4][O:5]>>[C:1]=[C:2]([H:3])[O:4][O:5],-5.7865695628100005
[H:1].[O:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15],-1.48700080174
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:7]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-1.9576090686900005
